US08183240B2
Step 2: Synthesis of 4-(2,4-dichlorophenyl)-2-morpholin-4-yl-1,3-thiazole-5-carbonitrile
4-chloro-2-morpholin-4-yl-1,3-thiazole-5-carbonitrile (0.200 g, 0.871 mmol), 2,4-dichlorophenylboronic acid (0.249 g, 1.31 mmol), bis(triphenylphosphine)palladium dichloride (0.061 g, 0.0871 mmol), sodium carbonate (0.184 g, 1.74 mmol) were taken up in DME (3 mL), ethanol (1 mL) and water (1 mL) and microwaved at 125° for 30 minutes. Mixture was diluted with ethyl acetate (10 mL) and extracted. The organic phase was dried with sodium sulfate, filtered and evaporated. ISCO purification on silica gel using 10% ethyl acetate in hexane to 50% ethyl acetate in hexane afforded the title compound (45 mg, 15%). LCMS: (FA) ES+, 340. 1H NMR (400 MHz, d6-DMSO) δ: 7.44 (d, 1H), 7.20-7.17 (m, 2H), 3.43-3.28 (m, 4H), 3.16-2.93 (m, 4H).

reactant | 4-chloro-2-morpholin-4-yl-1,3-thiazole-5-carbonitrile | 0.871 mmol, 0.200 g | ClC=1N=C(SC1C#N)N1CCOCC1 | C8H8ClN3OS
reactant | 2,4-dichlorophenylboronic acid | 1.31 mmol, 0.249 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | sodium carbonate | 1.74 mmol, 0.184 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 1 mL | C(C)O | C2H6O
solvent | DME | 3 mL | COCCOC | C4H10O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium dichloride | 0.0871 mmol, 0.061 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 1 mL | O | H2O
product | 4-(2,4-dichlorophenyl)-2-morpholin-4-yl-1,3-thiazole-5-carbonitrile | 45 mg, 15% | ClC1=C(C=CC(=C1)Cl)C=1N=C(SC1C#N)N1CCOCC1 | C14H11Cl2N3OS
